US06103737
2-(Trifluoromethyl)phenylboronic acid
To a stirred solution of 2-Bromo-(trifluoromethyl)benzene (18.2 mL, 0.133 moles) in dry THF (150 mL) at -78° was added dropwise over a 25 min period n-butyllithium (60 mL of 2.5M in hexanes, 0.147 moles). The solution was stirred at -78° for 1 hour, and then a solution of triisopropyborate (37 mL) in THF (50 mL) was added dropwise over 30 min at -78°. The cooling bath was removed and the reaction mixture was stirred at ambient temperature overnight. The solution was then cooled to 0°, and made acidic with 1N aqueous hydrochloric acid. The resulting mixture was extracted twice with ether, and the combined extracts were extracted twice with 1N sodium hydroxide. The combined aqueous extracts were acidified to pH 2 with 1N hydrochloric acid and extracted twice with ether. The combined extracts were dried over magnesium chloride, and concentrated in vacuo to a white solid (20.95 g). Two recrystallizations from water afforded the title compound as a colorless solid (11.35 g).

reactant | 2-Bromo-(trifluoromethyl)benzene | 0.133 moles, 18.2 mL | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | n-butyllithium | 0.147 moles, 2.5M, 60 mL | C(CCC)[Li]
reactant | triisopropyborate | 37 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(Trifluoromethyl)phenylboronic acid | 11.35 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
